US07211601B2
(2S,4EZ)-N-[(2S)-2-hydroxy-2-phenylethyl]-4-(methoxyimino)-1-{[2′-(trifluoromethyl)[1,1′-biphenyl]-4-yl]carbonyl}-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, 2′-(trifluoromethyl)[1,1′-biphenyl]-4-carboxylic acid, and (1S)-2-amino-1-phenylethanol, the title compound was obtained in 87% purity by HPLC. MS(ESI+): m/z=526.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | 2′-(trifluoromethyl)[1,1′-biphenyl]-4-carboxylic acid | FC(C1=C(C=CC=C1)C1=CC=C(C=C1)C(=O)O)(F)F | C14H9F3O2
reactant | (1S)-2-amino-1-phenylethanol | NC[C@@H](O)C1=CC=CC=C1 | C8H11NO
product | (2S,4EZ)-N-[(2S)-2-hydroxy-2-phenylethyl]-4-(methoxyimino)-1-{[2′-(trifluoromethyl)[1,1′-biphenyl]-4-yl]carbonyl}-2-pyrrolidinecarboxamide | O[C@H](CNC(=O)[C@H]1N(CC(C1)=NOC)C(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)C(F)(F)F)C1=CC=CC=C1 | C28H26F3N3O4
